US08389511B2
tert-Butyl (3R)-3-[{[4-(2-aminoethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}(isopropyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (1.14 g) were added a 10% palladium carbon (500 mg) and methanol (30 ml), and the mixture was stirred at room temperature under hydrogen atmosphere for 2 hours. After the reaction was complete, the mixture was filtered and concentrated. The obtained residue (900 mg) was used in the subsequent reaction without further treatment.

reactant | tert-butyl (3R)-3-[{[4-(2-{[(benzyloxy)carbonyl]amino}ethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 1.14 g | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C35H48N4O7
catalyst | palladium carbon | 500 mg | [C].[Pd]
solvent | methanol | 30 ml | CO | CH4O
product | tert-Butyl (3R)-3-[{[4-(2-aminoethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}(isopropyl)amino]piperidine-1-carboxylate | NCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C27H42N4O5
